US04209621
2-Methylthio-4-(m-trifluoromethylphenyl)pyrimidine
A solution of 4.75 g. of 2-mercapto-4-(m-trifluoromethylphenyl)pyrimidine in 50 ml. of 1 N sodium hydroxide is cooled to near 0° C. in an ice bath and 2.90 g. of methyliodide is added. After the reaction mixture is allowed to warm to room temperature, the product is removed by filtration, m.p. 89°-90° C.

reactant | 2-mercapto-4-(m-trifluoromethylphenyl)pyrimidine | SC1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C11H7F3N2S
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | methyliodide | CI | CH3I
product | 2-Methylthio-4-(m-trifluoromethylphenyl)pyrimidine | CSC1=NC=CC(=N1)C1=CC(=CC=C1)C(F)(F)F | C12H9F3N2S
